US04326060
(e) Pteroyl-L-tyrosine methyl ester (Pt-L-TME)
A 50 ml round-bottom flask containing a magnetic stirring bar was charged with 120.5 mg (0.63 mmole) of 6-formyl pterin, prepared by the method of Viscontini, et al., (1) (2) 490.2 mg (156 mmole, 2.47 equiv.) of H-PABA-L-TME and 4 ml of glacial acetic acid (HOAc). With stirring the H-PABA-L-TME dissolved, but the yellow aldehyde remained in suspension. The flask was flushed with argon as 3-4 ml of trifluoroacetic acid (TFA) was slowly added to effect complete dissolution of the suspended solids. Stirring was continued for an additional 30 minutes from this point. Most of the solvent then was removed from the dark brown solution by gentle warming (40° C.) on the rotary evaporator (water aspirator). The moist brown residue was taken to dryness under high vacuum (0.05 mm Hg) at room temperature overnight with the flask wrapped in aluminum foil to exclude light. A brown foam or glass resulted. The vacuum was broken and argon was bled into the flask. To the brown foam was added 4 ml of HOAc, and with vigorous swirling and stirring (under argon) the residue was dislodged from the walls of the flask to form a light yellow-brown suspension. Dimethylamine borane, 37.2 mg (0.631 mmole, 1 equiv.) was added to the stirred suspension; the color rapidly changed to orange-brown and nearly all of the solid dissolved. After an hour HOAc (8-10 ml) was used to rinse down the neck and walls of the flask. The reaction mixture was concentrated with gentle heating (40°) on the rotary evaporator to a viscous residue. Two 25 ml portions of toluene were successively added to the residue, mixed, then stripped in vacuo which gentle warming to remove HOAc as its toluene azeotrope. The final toluene-damp residue was dried to a brown foam under high vacuum at room temperature overnight. To the flask was added 30 ml of EtOAc. The foam was scraped from the walls of the flask with a metal spatula to form a suspension, which was left standing in the refrigerator overnight. The insoluble yellow-orange solid was separated from the yellow supernatant by centrifugation. The pelleted solid was resuspended in EtOAc and recentrifuged three times until the final EtOAc wash was colorless. Finally, the pelleted solid was resuspended in a small volume of EtOAc, collected on a coarse fitted glass fiber under argon in a pressure filtration apparatus, washed with several small portions of EtOAc and dried by flowing argon through the collected filter cake under positive pressure for an hour.

reactant | 6-formyl pterin | 0.63 mmole, 120.5 mg | C(=O)C=1N=C2C(NC(=NC2=NC1)N)=O | C7H5N5O2
reactant | p-Aminobenzoyl-L-tyrosine methyl ester | 156 mmole, 490.2 mg, 2.47 equiv. | COC([C@@H](NC(C1=CC=CC=C1)=O)CC1=CCC(C=C1)(O)N)=O | C17H20N2O4
reactant | Dimethylamine borane | B.CNC
solvent | HOAc | 8-10 ml | CC(=O)O | C2H4O2
solvent | HOAc | 4 ml | CC(=O)O | C2H4O2
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | Pteroyl-L-tyrosine methyl ester | COC([C@@H](NC(C1=CC=C(NCC2=CN=C3N=C(N)NC(=O)C3=N2)C=C1)=O)CC1=CC=C(C=C1)O)=O | C24H23N7O5
